US03953430
Preparation of 4,9-Dihydro-9-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
To a stirred mixture of 0.84 g. of 4,9-dihydro-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one and 0.18 g. of 55% sodium hydride-mineral oil dispersion in 25 ml. of dimethylformamide is added 0.3 ml. of methyl iodide. The reaction mixture is stirred for 2.5 hours, cooled, diluted with water and filtered. The solid product is recrystallized from methanol-water to give pale yellow crystals, m.p. 195°-198°C.

reactant | 4,9-dihydro-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | methyl iodide | CI | CH3I
solvent | water | O | H2O
product | 4,9-Dihydro-9-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C12H10N2OS
